US07786114B2
The product is prepared by following the procedure described in example 34 stage (k), starting with 0.070 g of [2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]-[2-(3-methyl-3H-imidazol-4-yl)ethyl]amine instead of the cyclopropyl-[2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]amine used in example 34 stage (k) and 0.5 cm3 of 5N potassium hydroxide. 0.048 g of [2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]-[2-(3-methyl-3H-imidazol-4-yl)ethyl]amine is obtained with the following characteristics:

reactant | [2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]-[2-(3-methyl-3H-imidazol-4-yl)ethyl]amine | 0.070 g | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC=1C(=NC=CC1CNCCC=1N(C=NC1)C)N2S(=O)(=O)C2=CC=C(C=C2)C)OC | C31H33N7O4S
reactant | potassium hydroxide | 5N, 0.5 cm3 | [OH-].[K+]
product | [2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]-[2-(3-methyl-3H-imidazol-4-yl)ethyl]amine | 0.048 g | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC=1C(=NC=CC1CNCCC=1N(C=NC1)C)N2)OC | C24H27N7O2
